Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Polytrauma
 
Major Surgical or Invasive Procedure:
___ Open reduction internal fixation of left distal ulnar 
fracture

 
History of Present Illness:
Ms. ___ is a ___ yo F who presented to the ED as a transfer from 
___ after a fall.  Pt reports that she fell down 12 
flights of stairs accidentally at home and landed on her left 
side.  She sustained a left distal ulnar fracture as well as L 
rib fracture.  She denies dizziness, SOB, CP, or weakness prior 
to the fall, and denies head trauma or LOC after the fall.  Of 
note, pt reports that he has fallen a few times in the past year 
due to mild knee pain, but denies dizziness, vertigo or problem 
balancing in any of these episodes. 
 
Past Medical History:
PMH: 
Vit D deficiency 
GERD 
Dysphagia (stricture)
BCC (age ___
Depression
Diverticulosis 
Ectopic pregnancy 

PSH:
Hysterectomy ___ 
 
Social History:
___
Family History:
Fam Hx: Mother with osteoporosis and mastocytosis; sister with 
chronic back pain after MVA. 

 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
 
Pertinent Results:
___ 06:26AM BLOOD WBC-9.2 RBC-3.89* Hgb-12.2 Hct-36.3 
MCV-93 MCH-31.4 MCHC-33.6 RDW-12.6 RDWSD-43.2 Plt ___
___ 06:15AM BLOOD WBC-11.2* RBC-3.80* Hgb-11.7 Hct-34.9 
MCV-92 MCH-30.8 MCHC-33.5 RDW-12.5 RDWSD-42.1 Plt ___
___ 06:26AM BLOOD Plt ___
___ 06:26AM BLOOD ___ PTT-29.2 ___
___ 06:15AM BLOOD Plt ___
___ 06:26AM BLOOD Glucose-114* UreaN-10 Creat-0.6 Na-141 
K-4.4 Cl-104 HCO3-22 AnGap-15
___ 06:15AM BLOOD Glucose-117* UreaN-15 Creat-0.7 Na-139 
K-3.9 Cl-101 HCO3-26 AnGap-12
___ 06:26AM BLOOD Calcium-9.7 Phos-3.2 Mg-1.9
___ 06:15AM BLOOD Calcium-9.3 Phos-3.3 Mg-1.9

x-ray of left forearm:  ___:

Status post ORIF of a left distal ulnar fracture, in overall 
anatomic 
alignment. 
Widening of the scapho-lunate interval. 

 
Brief Hospital Course:
___ year old female admitted to the hospital after a fall down 
stairs resulting in a left ulnar shaft fracture and ___ left 
sided rib fractures.   Upon admission, the patient was made NPO 
and given intravenous fluids.  Because of her injuries, she was 
evaluated by the Orthopedic service.  The decision was made to 
take to patient to the operating room where she underwent an 
ORIF of the left ulna.  The operative course was stable with 
minimal blood loss. At the close of the case the patient left 
arm was placed in a splint.  The patient was extubated after the 
procedure and monitored in the recovery room.  

The post-operative course was stable. The patient's pain was 
controlled with intravenous analgesia and later transitioned to 
oral agents. The patient was instructed in the use of the 
incentive spirometer.  She resumed a regular diet and was 
voiding without difficulty.  Prior to discharge, the patient was 
evaluated by physical and occupational therapy and deemed safe 
for discharge home. A follow-up appointment was made with the 
Orthopedic service in 2 weeks.  The patient was instructed to 
follow-up with her primary care provider for further evaluation 
of the rib fractures and follow-up chest x-ray     
 
Medications on Admission:
Fluoxetine 20 mg QD 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
Do not exceed 4,000 mg/24 hours. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID Duration: 7 Days 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  FLUoxetine 20 mg PO DAILY  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do not drive while on this medication, may cause drowsiness 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Senna 8.6 mg PO DAILY Duration: 7 Days 
RX *sennosides [senna] 8.6 mg 1 by mouth once a day Disp #*1 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left distal ulnar fracture
Left ___ ribs fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were transferred to ___ 
___ after a fall and were found to have left-sided rib 
fractures and a left wrist fracture. You underwent repair of 
your right wrist fracture on ___. You are recovering well 
and are now ready for discharge. Please continue non-weight 
bearing of your left arm and keep splint in place, clean, and 
dry. Please follow the instructions below to continue your 
recovery:

Rib Fractures:
* Your injury caused 2 rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain. 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician. 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing. 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain. 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible. 
* Do NOT smoke 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves. 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

PAIN MANAGEMENT: 
 o It is normal to feel some discomfort/pain after surgery. This 
pain is often described as "soreness".  
 o Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 

 o You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed. 
 o Your pain medicine will work better if you take it before 
your pain gets too severe. 
 o If you are experiencing no pain, it is okay to skip a dose of 
pain medicine. 

If you experience any of the following, please contact your 
surgeon: 
 - sharp pain or any severe pain that lasts several hours 
 - pain that is getting worse over time 
 - pain accompanied by fever of more than 101 
 - a drastic change in nature or quality of your pain 

   
MEDICATIONS: 
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently. 
If you have any questions about what medicine to take or not to 
take, please call your surgeon.

Thank you for allowing us to participate in your care!

Sincerely, 
Your ___ Team

 
Followup Instructions:
___